US20010027196A1
2-Amino-5-cyano-4-(3,4,5-trimethoxyphenyl)pyrimidine
From 3,4,5-trimethoxybenzoylacetonitrile and N,N-dimethylformamide dimethyl acetal. Then treatment with guanidine carbonate and sodium methylate in methanol. EI-MS m/e (%): 286 (M+, 100), 271 ([M—CH3]+, 44), 243 (27), 228 (15), 213 (30), 157 (16).

reactant | 3,4,5-trimethoxybenzoylacetonitrile | COC=1C=C(C(=O)CC#N)C=C(C1OC)OC | C12H13NO4
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | guanidine carbonate | C(O)(O)=O.NC(=N)N
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-Amino-5-cyano-4-(3,4,5-trimethoxyphenyl)pyrimidine | NC1=NC=C(C(=N1)C1=CC(=C(C(=C1)OC)OC)OC)C#N | C14H14N4O3
